US08278319B2
Stage 2: Methyl 4-(1-(4-methoxy-2,6-dimethylphenylsulfonyl)piperidin-2-yl)butanoic acid methyl ester
Methyl 4-(piperidin-2-yl)butanoic acid methyl ester hydrochloride (1.26 g, 5.683 mmol) was dissolved in dichloromethane (25 ml) and triethylamine (4 ml, 28.417 mmol) and a solution of 4-methoxy-2,6-dimethylbenzenesulfonic acid chloride (2.67 g, 11.37 mmol) in dichloromethane (10 ml) was added. The mixture was stirred overnight at room temperature. 1 mol/l HCl solution (10 ml) was added to the reaction mixture, followed by phase separation and extraction of the aqueous phase with dichloromethane (2×20 ml). The combined organic phases were washed with saturated sodium chloride solution (20 ml), dried over sodium sulfate and concentrated to small volume under vacuum. The crude product was purified by column chromatography (silica gel) with hexane/dichloromethane/diethyl ether (400:100:50). Yield: 1.65 g (75%)

reactant | Methyl 4-(piperidin-2-yl)butanoic acid methyl ester hydrochloride | 5.683 mmol, 1.26 g | Cl.COC(C(CCC1NCCCC1)C)=O
reactant | triethylamine | 28.417 mmol, 4 ml | C(C)N(CC)CC | C6H15N
reactant | 4-methoxy-2,6-dimethylbenzenesulfonic acid chloride | 11.37 mmol, 2.67 g | COC1=CC(=C(C(=C1)C)S(=O)(=O)Cl)C | C9H11ClO3S
reactant | HCl | 1 mol/l, 10 ml | Cl | ClH
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | Methyl 4-(1-(4-methoxy-2,6-dimethylphenylsulfonyl)piperidin-2-yl)butanoic acid methyl ester | COC(C(CCC1N(CCCC1)S(=O)(=O)C1=C(C=C(C=C1C)OC)C)C)=O | C20H31NO5S
